US07932271B2
2-Bromo-5-chloro-4-[(2,5-difluorophenyl)hydroxymethyl]pyridine
Under an argon atmosphere, n-butyl lithium (a 1.58M hexane solution, 88 ml, 138 mmol) was added to a tetrahydrofuran (200 ml) solution of diisopropylamine (21 ml, 150 mmol) at −78° C. The resulting mixture was stirred for 1 hour. To the reaction mixture was added dropwise a tetrahydrofuran (100 ml) solution of 2-bromo-5-chloropyridine (19 g, 98.7 mmol). The resulting mixture was stirred for 1.5 hours. To the reaction mixture was added dropwise 2,5-difluorobenzaldehyde (16 ml, 148 mmol), followed by stirring for 2 hours. After addition of water, the resulting mixture was concentrated under reduced pressure. The residue was extracted with dichloromethane. The organic layer thus obtained was dried over magnesium sulfate, and concentrated under reduced pressure. The residue thus obtained was subjected to silica gel column chromatography. The fraction obtained from the hexane:ethyl acetate=6:1 eluate was concentrated under reduced pressure to give the title compound (24.8 g, 74.1 mmol, 75%) as a pale yellow powder.

reactant | n-butyl lithium | C(CCC)[Li]
reactant | diisopropylamine | 150 mmol, 21 ml | C(C)(C)NC(C)C | C6H15N
reactant | 2-bromo-5-chloropyridine | 98.7 mmol, 19 g | BrC1=NC=C(C=C1)Cl | C5H3BrClN
reactant | 2,5-difluorobenzaldehyde | 148 mmol, 16 ml | FC1=C(C=O)C=C(C=C1)F | C7H4F2O
solvent | hexane | CCCCCC | C6H14
solvent | water | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | hexane | 1.58M | CCCCCC | C6H14
product | 2-Bromo-5-chloro-4-[(2,5-difluorophenyl)hydroxymethyl]pyridine | 74.1 mmol, 24.8 g, 75% | BrC1=NC=C(C(=C1)C(O)C1=C(C=CC(=C1)F)F)Cl | C12H7BrClF2NO
